US07632861B2
2-(2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethyl)isoindoline-1,3-dione.
To a solution of 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanol (100 mg, 0.230 mmol), phthalimide (50.8 mg, 0.345 mmol), and tetrahydrofuran (2 mL) at 0° C. was added diethylazodicarboxylate (0.055 mL, 0.345 mmol) dropwise. The ice bath was removed and stirring continued for 1 h. The reaction was quenched by addition of saturated ammonium chloride and extracted with ethyl acetate (2×) which was washed with brine, dried over magnesium sulfate, and concentrated. Column chromatography (8%-->12% EtOAc/Hex) gave 105 mg (81%) as a colorless oil. 1H-NMR (CDCl3, 300 MHz) δ 7.55-7.80 (m, 7H), 7.12 (d, J=7.6 Hz, 1H), 7.01 (m, 3H), 4.66 (qAB, JAB=13.1 Hz, 2H), 4.03 (m, 2H), 3.74 (m, 2H), 3.72 (qAB, JAB=10.4 Hz, 2H), 3.02 (m, 1H), 2.66 (m, 1H), 2.30-2.50 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 168.2, 141.2, 136.6, 134.9, 133.7, 132.2, 131.7 (q, J=33.6 Hz), 129.2, 127.4, 126.8, 126.3, 125.5, 123.4 (q, J=273 Hz), 123.0, 121.5, 77.4, 76.1, 72.2, 60.4, 35.5, 33.5, 29.2.

reactant | 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanol | 0.230 mmol, 100 mg | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)CCO)C=C(C1)C(F)(F)F)(F)F | C21H20F6O3
reactant | phthalimide | 0.345 mmol, 50.8 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethylazodicarboxylate | 0.345 mmol, 0.055 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-(2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethyl)isoindoline-1,3-dione | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)CCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)C(F)(F)F)(F)F | C29H23F6NO4
